US05602253
(iii) 4-Azidoethyl-1-benzyloxycarbonylamidino piperidine
In 100 ml of dimethylformamide was dissolved 4.4 g (0.0115 mol) of crude 1-benzyloxycarbonylamidino-4-mesyloxyethyl piperidine and 4.5 g (0.069 mol) of sodium azide was added. The mixture was heated at 100° C. for 2.5 h. It was then poured into water and extracted with ethyl acetate three times. The combined organic phase was washed with water, dried (Na2SO4) and evaporated. The residue was flash chromatographed on silica gel using ethyl acetate/heptane 1/1 as eluent. Yield: 3.0 g (79%).

reactant | 1-benzyloxycarbonylamidino-4-mesyloxyethyl piperidine | 0.0115 mol, 4.4 g | C(C1=CC=CC=C1)OC(=O)NC(=N)N1CCC(CC1)CCOS(=O)(=O)C | C17H25N3O5S
reactant | sodium azide | 0.069 mol, 4.5 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-Azidoethyl-1-benzyloxycarbonylamidino piperidine | N(=[N+]=[N-])CCC1CCN(CC1)C(NC(=O)OCC1=CC=CC=C1)=N | C16H22N6O2
